US06197798B1
(R)-6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid (2-methoxycarbonylaminoindan-5-yl)-amide (6.5 g, 13.9 mmol) is dissolved in acetonitrile (325 mL) and cooled to 0° C. under nitrogen. Iodotrimethylsilane (11.1 g, 55.6 mmol) is added dropwise, the mixture is allowed to warm to room temperature and is stirred overnight. Methanol (100 mL) is added and the mixture is stirred for 1 hour and then concentrated in vacuo. The residue is dissolved in ethyl acetate (750 mL) and washed with saturated sodium bicarbonate (2×125 mL), water (125 mL), 5% Na2S2O3 solution (125 mL), water (125 mL), and brine (50 mL). The organic phase is dried over sodium sulfate and concentrated to afford (R)-N-(2-aminoindan-5-yl)-6-methyl-4′-trifluoromethylbiphenyl-2-carboxamide.

reactant | (R)-6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid (2-methoxycarbonylaminoindan-5-yl)-amide | 13.9 mmol, 6.5 g | COC(=O)N[C@@H]1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F | C26H23F3N2O3
reactant | Iodotrimethylsilane | 55.6 mmol, 11.1 g | I[Si](C)(C)C | C3H9ISi
reactant | Methanol | 100 mL | CO | CH4O
solvent | acetonitrile | 325 mL | C(C)#N | C2H3N
product | (R)-N-(2-aminoindan-5-yl)-6-methyl-4′-trifluoromethylbiphenyl-2-carboxamide | N[C@@H]1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F | C24H21F3N2O
